### ISSUE TITLE
[Problem] JSP-000690: Lean verification of Li’s 9-vertex chromatic-critical hypergraph

### ISSUE THREAD

**Issue by milshop** [TheJustinSunPrize/awards#15]
### Problem and original source

JSP-000690 / Erdős #834 — https://www.erdosproblems.com/834 ; construction: https://arxiv.org/abs/2512.24850v1

### Statement and significance

This supplements an existing catalog entry with a self-contained Lean proof; it is not a recommendation to add a duplicate problem.

The statement is the chromatic interpretation: there exists a simple 3-uniform hypergraph with chromatic number 3, minimum degree at least 7, and proper 2-colorings after deletion of any single edge or vertex.

Ruiliang Li already supplied the mathematical construction in arXiv:2512.24850v1, equation (5) and Theorems 1.2/4.1. The included formalization verifies that particular 9-vertex, 22-edge hypergraph. Original discovery credit remains with Li. The separate transversal-number interpretation is outside this proof.

The catalog currently records Lean proof: No. Requested handling: independently check statement alignment and reproduce the included proof; if accepted, link the evidence and update the Lean field through the normal review process. Local compilation alone does not establish award eligibility.

### Known results and verification evidence

Public mathematical sources:
- Ruiliang Li, versioned preprint: https://arxiv.org/abs/2512.24850v1
- Original Erdős–Lovász problem context (Er74d, p.282): https://www.erdosproblems.com/834
- Reviewed catalog revision: https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0601-0700.md#JSP-000690

The complete standalone Proof.lean source is included below. Save the code block as a UTF-8 file with LF line endings and a final newline; its SHA-256 is recorded below. This issue supplies public, hash-pinned source while a separate proof repository is not yet published.

Reproduction with the official Lean 4.24.0 toolchain (release commit 797c613eb9b6d4ec95db23e3e00af9ac6657f24b):
```sh
lean --version
lean -o Proof.olean Proof.lean
```
No Mathlib or external solver is required. Local compilation succeeded on 2026-09-16; independent reproduction and review are pending.

Main theorem: JSP000690.exists_critical_min_degree_seven. Its reported axioms are [propext, Quot.sound]; there is no sorryAx, custom axiom, or native_decide.

Statement checks: vertices 1..9 are reindexed to Fin 9; triples are strictly increasing and duplicate-free; coloring means no monochromatic hyperedge. The color_complete lemma bridges all coloring functions to the exhaustive Boolean certificate. Explicit three-coloring, all 512 failed two-colorings, all 22 edge deletions, all 9 vertex deletions, and degrees (10,7,7,7,7,7,7,7,7) are checked. Thus this is a complete proof of the catalog’s chromatic existence question, not just a finite sample of a remaining infinite assertion.

SHA-256 Proof.lean: b774101a4cfbf9715a2823fe87fe8208981adbbdc4f2f244ff8428190d8a547e

Formalization and local verification were prepared with OpenAI Codex assistance. No claim of being the first formalization is made. Please preserve mathematical attribution separately from any eventual formalization attribution.

<details>
<summary>Complete Proof.lean source (Lean 4.24.0)</summary>

```lean
import Std

/- Formal verification of Ruiliang Li's explicit hypergraph, arXiv:2512.24850v1,
   equation (5), chromatic interpretation only. Vertices 1..9 are reindexed 0..8.
   The construction and mathematical discovery are Li's, not this formalization's.
   Toolchain: leanprover/lean4:v4.24.0. No Mathlib or external solver required. -/
namespace JSP000690
set_option maxRecDepth 8192
set_option maxHeartbeats 10000000
abbrev V := Fin 9
abbrev Edge := V × V × V
abbrev Hypergraph := List Edge

def incident (v : V) (e : Edge) : Bool := v == e.1 || v == e.2.1 || v == e.2.2
def Mono {α : Type} (c : V → α) (e : Edge) : Prop :=
  c e.1 = c e.2.1 ∧ c e.2.1 = c e.2.2
def Proper {α : Type} (H : Hypergraph) (c : V → α) : Prop :=
  ∀ e ∈ H, ¬ Mono c e
instance {α : Type} [DecidableEq α] (H : Hypergraph) (c : V → α) :
    Decidable (Proper H c) := inferInstanceAs (Decidable (∀ e ∈ H, ¬ (c e.1 = c e.2.1 ∧ c e.2.1 = c e.2.2)))
def Simple (H : Hypergraph) : Prop := H.Nodup ∧ ∀ e ∈ H, e.1 < e.2.1 ∧ e.2.1 < e.2.2
def degree (H : Hypergraph) (v : V) : Nat := (H.filter (incident v)).length
def deleteEdge (H : Hypergraph) (e : Edge) : Hypergraph := H.filter (fun f => f != e)
def deleteVertex (H : Hypergraph) (v : V) : Hypergraph := H.filter (fun e => !incident v e)
def Critical3 (H : Hypergraph) : Prop :=
  (∃ c : V → Fin 3, Proper H c) ∧ (¬ ∃ c : V → Bool, Proper H c) ∧
  (∀ e ∈ H, ∃ c : V → Bool, Proper (deleteEdge H e) c) ∧
  (∀ v : V, ∃ c : V → Bool, Proper (deleteVertex H v) c)
def H : Hypergraph := [
  (0, 1, 2),
  (0, 1, 8),
  (0, 2, 7),
  (0, 3, 5),
  (0, 3, 7),
  (0, 3, 8),
  (0, 4, 6),
  (0, 4, 7),
  (0, 4, 8),
  (0, 5, 6),
  (1, 2, 5),
  (1, 2, 6),
  (1, 3, 8),
  (1, 4, 8),
  (1, 5, 6),
  (2, 3, 7),
  (2, 4, 7),
  (2, 5, 6),
  (3, 5, 7),
  (3, 5, 8),
  (4, 6, 7),
  (4, 6, 8)]
def color (b0 b1 b2 b3 b4 b5 b6 b7 b8 : Bool) : V → Bool := fun v =>
  match v.val with
  | 0 => b0
  | 1 => b1
  | 2 => b2
  | 3 => b3
  | 4 => b4
  | 5 => b5
  | 6 => b6
  | 7 => b7
  | _ => b8
theorem simple : Simple H := by
  unfold Simple
  decide
 theorem degrees : ∀ v : V, degree H v = if v = 0 then 10 else 7 := by decide
 theorem min_degree : (∀ v : V, 7 ≤ degree H v) ∧ (∃ v : V, degree H v = 7) := by decide
 theorem certificate : ∀ b0 b1 b2 b3 b4 b5 b6 b7 b8 : Bool,
    ¬ Proper H (color b0 b1 b2 b3 b4 b5 b6 b7 b8) := by decide
 theorem color_complete (c : V → Bool) :
    c = color (c 0) (c 1) (c 2) (c 3) (c 4) (c 5) (c 6) (c 7) (c 8) := by
  funext v
  obtain ⟨v, hv⟩ := v
  have cases_v : v = 0 ∨ v = 1 ∨ v = 2 ∨ v = 3 ∨ v = 4 ∨ v = 5 ∨ v = 6 ∨ v = 7 ∨ v = 8 := by omega
  rcases cases_v with h | h | h | h | h | h | h | h | h <;> subst v <;> rfl
 theorem not_two_colorable : ¬ ∃ c : V → Bool, Proper H c := by
  rintro ⟨c, hc⟩
  have bad := certificate (c 0) (c 1) (c 2) (c 3) (c 4) (c 5) (c 6) (c 7) (c 8)
  rw [← color_complete c] at bad
  exact bad hc
 def threeColor (v : V) : Fin 3 :=
   if v = 0 ∨ v = 1 ∨ v = 3 ∨ v = 4 then 0 else if v = 6 then 2 else 1
 theorem three_colorable : Proper H threeColor := by decide
def edgeColors : List (V → Bool) := [
  color false false false false false true true true true,
  color false false true true true false true false false,
  color false true false true true false true false false,
  color false false true false false false true true true,
  color false false true false true true false false true,
  color false true false false true true false true false,
  color false false true false false true false true true,
  color false false true true false false true false true,
  color false true false true false false true true false,
  color false true true true true false false false false,
  color false true true true true true false false false,
  color false true true true true false true false false,
  color false true false true false false true true true,
  color false true false false true true false true true,
  color false true false false false true true true true,
  color false false true true false false true true true,
  color false false true false true true false true true,
  color false false true false false true true true true,
  color false true false true true true false true false,
  color false false true true true true false false true,
  color false true false true true false true true false,
  color false false true true true false true false true]
def vertexColors : List (V → Bool) := [
  color false false false false false true true true true,
  color false false false false false true true true true,
  color false false false false false true true true true,
  color false false true false false false true true true,
  color false false true false false true false true true,
  color false false true false false false true true true,
  color false false true false false true false true true,
  color false false true false true true false false true,
  color false false true true true false true false false]
theorem edge_certificates : ∀ e ∈ H, ∃ c ∈ edgeColors, Proper (deleteEdge H e) c := by decide
 theorem vertex_certificates : ∀ v : V, ∃ c ∈ vertexColors, Proper (deleteVertex H v) c := by decide
 theorem critical : Critical3 H := by
  refine ⟨⟨threeColor, three_colorable⟩, not_two_colorable, ?_, ?_⟩
  · intro e he
    obtain ⟨c, _, hc⟩ := edge_certificates e he
    exact ⟨c, hc⟩
  · intro v
    obtain ⟨c, _, hc⟩ := vertex_certificates v
    exact ⟨c, hc⟩
 theorem exists_critical_min_degree_seven :
    ∃ G : Hypergraph, Simple G ∧ Critical3 G ∧ (∀ v : V, 7 ≤ degree G v) ∧
      (∃ v : V, degree G v = 7) :=
  ⟨H, simple, critical, min_degree⟩
#print axioms exists_critical_min_degree_seven
end JSP000690
```

</details>

### Related records and conflicts

No duplicate JSP-000690 / Erdős #834 submission was found in the repository issues and pull requests checked on 2026-09-16. Existing #13 concerns JSP-000301; #14 concerns JSP-000307, so both concern different problems.

No relevant public professional relationship is known from this submission. No recipient identity or award allocation is proposed, and no private personal data is included. Priority of this formalization and any award eligibility remain for the maintainers to assess.
